US05272128
A: 2-(Difluoromethoxy)-6-methyl-nitrobenzene
To a mixture of 43.0 g of 3-methyl-2-nitrophenol, 250 ml of p-dioxane, 150 ml of water, and 75 ml of 50% sodium hydroxide solution at 70° C. was added gaseous difluorochloromethane at a steady rate. The pH of the reaction was checked periodically. If the pH became acidic, 30 to 40 ml of 50% sodium hydroxide solution was added. After six hours of heating, the flow of the difluorochloromethane was halted and the reaction allowed to cool to room temperature. After standing overnight the reaction solution was poured onto a mixture of 50 g of ice and 250 ml of water and extracted with two 450 ml portions of ethyl acetate. The organic phase was dried with magnesium sulfate, filtered and concentrated. The resulting brown liquid was dried in a vacuum oven at 45° C. overnight to yield 53.3 g of the desired intermediate.

reactant | 3-methyl-2-nitrophenol | 43.0 g | CC=1C(=C(C=CC1)O)[N+](=O)[O-] | C7H7NO3
reactant | p-dioxane | 250 ml | O1CCOCC1 | C4H8O2
reactant | sodium hydroxide | 75 ml | [OH-].[Na+]
reactant | difluorochloromethane | FC(Cl)F | CHClF2
reactant | sodium hydroxide | 30 to 40 ml | [OH-].[Na+]
solvent | water | 250 ml | O | H2O
solvent | water | 150 ml | O | H2O
product | 2-(Difluoromethoxy)-6-methyl-nitrobenzene | 53.3 g | FC(OC1=C(C(=CC=C1)C)[N+](=O)[O-])F | C8H7F2NO3
